Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Vision loss
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: 
___ yo female with small ASD, on aspirin, who presents with
several episodes of left-sided monocular blurry vision.

First episode occurred last ___ afternoon. No clear 
trigger,
lasted perhaps 45 minutes and self-resolved. Repeat episode on
___ morning, as she was getting ready for work, again lasted
perhaps for ___ minutes. Third episode was on ___ morning,
lasted 2 hours. Then today had her longest episode, which 
started
around 6:30 am and ended by 12:30 pm. 

Patient describes all these episodes as "very very blurry" 
vision
in her left eye only. She has tried covering each eye separately
and does not note any deficits in her right eye. It is not
complete vision loss, darkness, or a curtain effect, but rather
extremely blurry vision that makes it difficult to detect 
objects
she could normally see. Denies any double vision. With the very
first episode, it seemed to affect the peripheral vision, but 
the
more recent episodes have affected her entire field of vision in
the left eye. No clear triggers that she can identify, nor is it
clear what makes the symptoms resolve.

Patient was evaluated by ophthalmology on ___, with no
reported pathology. Given on-going symptoms PCP recommended
presentation to the ED for more urgent neurology evaluation.

Reports having a tension-type headache yesterday, but no
headaches associated with these visual episodes. No dizziness, 
no
nausea/vomiting. Denies any scalp tenderness or jaw
pain/claudication.
 
Past Medical History:
Small ASD, found on screening echo (done for family history of
cardiomyopathy)
Endometrial ablation ___ years prior
 
Social History:
___
Family History:
Father - cardiomyopathy, complex partial epilepsy on Keppra

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: warm and well-perfused
Pulmonary: breathing comfortably in room air
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact.  No
paraphasias.  No dysarthria. Normal prosody. Able to follow both
midline and appendicular commands.

- Cranial Nerves: PERRL 3->2 brisk. VF full to finger movement.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Palate elevation
symmetric. SCM/Trapezius strength ___ bilaterally. Tongue
midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.

  [Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas]
   [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]
L   5     5     5     5     5    5     5     5     5    5 
R   5     5     5     5     5    5     5     5     5    5
 
- Reflexes: 
      [Bic] [___] [Quad] [Gastroc]
 L     2+     2+     2+      1
 R     2+     2+     2+      1 

Plantar response flexor bilaterally

- Sensory: No deficits to light touch.

- Coordination: Equivocal very mild end-point dysmetria on the
right side. Smooth FNF on the left. 

- Gait: Normal initiation. Narrow base. Normal stride length and
arm swing. Stable without sway. Negative Romberg.

DISCHARGE PHYSICAL EXAM:
Stable from above, with exceptions including no evidence of 
dysmetria on FNF. ___ Chart showed ___ OD, ___ OS. 
 
Pertinent Results:
___ 06:32AM BLOOD WBC-4.4 RBC-4.23 Hgb-13.2 Hct-38.3 MCV-91 
MCH-31.2 MCHC-34.5 RDW-12.0 RDWSD-39.4 Plt ___
___ 06:10PM BLOOD WBC-4.9 RBC-4.32 Hgb-13.2 Hct-40.1 MCV-93 
MCH-30.6 MCHC-32.9 RDW-12.0 RDWSD-40.8 Plt ___
___ 06:10PM BLOOD ___ PTT-27.7 ___
___ 06:32AM BLOOD Glucose-84 UreaN-18 Creat-0.8 Na-142 
K-4.4 Cl-105 HCO3-26 AnGap-11
___ 06:10PM BLOOD Glucose-95 UreaN-19 Creat-0.9 Na-143 
K-4.4 Cl-104 HCO3-27 AnGap-12
___ 06:10PM BLOOD ALT-14 AST-25 AlkPhos-73 TotBili-0.3
___ 06:10PM BLOOD cTropnT-<0.01
___ 06:32AM BLOOD Calcium-9.1 Phos-4.6* Mg-2.1
___ 06:10PM BLOOD Albumin-4.5 Cholest-212*
___ 06:10PM BLOOD %HbA1c-5.2 eAG-103
___ 06:10PM BLOOD Triglyc-54 HDL-88 CHOL/HD-2.4 LDLcalc-113
___ 06:32AM BLOOD CRP-0.6
___ 06:10PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

___ MRI Head w/o:
1.  Study is mildly degraded by motion.
2. No acute intracranial abnormality, with no evidence of acute 
infarct.
3. Paranasal sinus disease , as described.

___ CTA H&N:
Contrast head CT:
No acute intracranial process.
 
CTA head and neck:
Intracranial and cervical vasculature are patent without 
aneurysm or
dissection.

___ MRI Orbits w/ and w/o:
1. Normal MRI of the orbits. 
2. Mild maxillary sinus disease. 
 
Brief Hospital Course:
Ms. ___ was admitted to the ___ 
service due to episodes of vision loss. She underwent neurologic 
evaluations both in the ED and on the floor with no concerning 
findings. She underwent laboratory workup and MRI Head/Orbits, 
both of which were unremarkable. Due to pt appearing stable and 
interested in going home, we discharged with plan for follow up 
with her PCP and ophthalmologist. 

TRANSITIONAL ISSUES:
-Pt will start Atorvastatin 40mg at bedtime due to elevated 
cholesterol
-Pt will follow up with her primary care provider and 
ophthalmologist for further management of her visual sx

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing 
3. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM  
2.  Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing  
3.  Aspirin 81 mg PO DAILY  
4.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Episodic vision loss

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the ___ service 
due to episodes of vision loss. You were evaluated by Neurology 
in the ED and on the floor with a normal exam.  Laboratory 
studies were collected and you underwent an MRI of your head and 
orbits, both of which were unremarkable. Due to appearing 
clinically stable, we feel comfortable to discharge home with 
follow up in the near future.

Please follow these instructions upon discharge:
-Start Atorvastatin 40mg at bedtime due to elevated cholesterol
-Follow up with your primary care provider and ophthalmologist 
for further management of visual symptoms
-If you have further episodes of vision loss, please call your 
PCP for further ___

It was a pleasure taking care of you,

___ Neurology Team
 
Followup Instructions:
___